US07157487B2
To methyl (7-fluoro-2-(1-indolinyl)-6-benzoxazolyl)acetate (330 mg, 1.01 mmol) were added THF/methanol (2:1, 12 ml) and 1N NaOH (4 ml). After stirring at room temperature for 14 hours, the reaction mixture was distilled under reduced pressure to remove the solvent. The residue was acidified with 1N HCl. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (7-fluoro-2-(1-indolinyl)-6-benzoxazolyl)acetic acid (284 mg, 90%) as a pale brown solid.

reactant | methyl (7-fluoro-2-(1-indolinyl)-6-benzoxazolyl)acetate | 1.01 mmol, 330 mg | FC1=C(C=CC=2N=C(OC21)N2CCC1=CC=CC=C21)CC(=O)OC | C18H15FN2O3
reactant | NaOH | 1N, 4 ml | [OH-].[Na+]
solvent | THF methanol | 12 ml | C1CCOC1.CO
product | (7-fluoro-2-(1-indolinyl)-6-benzoxazolyl)acetic acid | 284 mg, 90% | FC1=C(C=CC=2N=C(OC21)N2CCC1=CC=CC=C21)CC(=O)O | C17H13FN2O3
